US07560558B2
2,2-Dimethyl-N-pyridin-4-yl-propionamide (5.60 g) was dissolved in tetrahydrofuran (70 ml) to prepare a solution which was then cooled to −78° C. A 1.57 M n-butyllithium/n-hexane solution (62 ml) was gradually added dropwise thereto, and the mixture was stirred at −78° C. for 15 min. The reaction solution was stirred at 0° C. for 4 hr and was then again cooled to −78° C. A solution of N,N-dimethylformamide (6.69 g) in tetrahydrofuran (7 ml) was gradually added dropwise thereto. The temperature of the reaction solution was raised to room temperature, the reaction solution was then poured into a mixture composed of ice (10 g) and 6 N hydrochloric acid (30 ml), and the mixture was stirred at room temperature for 15 min. The aqueous layer was neutralized with potassium carbonate powder and was extracted with diethyl ether. The diethyl ether layer was then washed with water and saturated brine and was dried over magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give N-(3-formyl-pyridin-4-yl)-2,2-dimethyl-propionamide (3.35 g, yield 52%).

reactant | 2,2-Dimethyl-N-pyridin-4-yl-propionamide | 5.60 g | CC(C(=O)NC1=CC=NC=C1)(C)C | C10H14N2O
reactant | n-butyllithium n-hexane | 1.57 M, 62 ml | C(CCC)[Li].CCCCCC
reactant | hydrochloric acid | 6 N, 30 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 6.69 g | CN(C=O)C | C3H7NO
product | N-(3-formyl-pyridin-4-yl)-2,2-dimethyl-propionamide | 3.35 g, yield 52% | C(=O)C=1C=NC=CC1NC(C(C)(C)C)=O | C11H14N2O2
